US06627647B1
A mixture of glycine tert-butyl ester hydrochloride (3.35 g, 20 mmol), 4-nitrofluorobenzene (2.82 g, 20 mmol) and potassium carbonate (4.2 g, 30 mmol) in DMSO (15 mL) was heated at 90° C. for 22 hr. The reaction mixture was allowed to cool to room temperature and then poured onto crushed ice. The precipitated yellow solid was filtered, washed with water and dried (Na2SO4) to give N-(4-nitrophenyl)glycine tert-butyl ester (4.1 g, 81%).

reactant | glycine tert-butyl ester hydrochloride | 20 mmol, 3.35 g | Cl.C(C)(C)(C)OC(CN)=O
reactant | 4-nitrofluorobenzene | 20 mmol, 2.82 g | [N+](=O)([O-])C1=CC=C(C=C1)F | C6H4FNO2
reactant | potassium carbonate | 30 mmol, 4.2 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMSO | 15 mL | CS(=O)C | C2H6OS
product | N-(4-nitrophenyl)glycine tert-butyl ester | 4.1 g, 81% | C(C)(C)(C)OC(CNC1=CC=C(C=C1)[N+](=O)[O-])=O | C12H16N2O4
